US07884124B2
tert-Butyl((4,4-difluoro-4,5-dihydrofuran-2-yl)methoxy)dimethylsilane was diluted with DCM and treated with silica gel (5 g SiO2/1 g of compound). The flask was swirled around to ensure an even mix, DCM was allowed to air dry and the flask left at rt overnight. The silica gel was transferred to a fritted funnel and eluted with DCM until no more product could be detected by TLC. The filtrate was concentrated to provide an orange oil tert-butyl((4-fluorofuran-2-yl)methoxy)dimethylsilane. 1H NMR (400 MHz, CDCl3) δ 0.09 (s, 6H), 0.91 (s, 9H), 4.55 (br s, 2H), 6.20 (m, 1H), 7.31 (dd, J=5.03, 0.63 Hz, 1H); 19F NMR (376.19 MHz, CDCl3) δ −170.53 (dd, J=4.95, 1.32, 1F).

reactant | tert-Butyl((4,4-difluoro-4,5-dihydrofuran-2-yl)methoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCC=1OCC(C1)(F)F | C11H20F2O2Si
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl((4-fluorofuran-2-yl)methoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCC=1OC=C(C1)F | C11H19FO2Si
